US04959364
1-methyl-4-(1-oxo-2-propenyl)piperazine
A solution of acryloyl chloride (9 g, 0.10 mole) in ethyl ether (20 ml) was added dropwise to a stirring, cold solution of N-methylpiperazine (10 g, 0.10 mole) and triethylamine (30.6 ml, 0.22 mole) in ethyl ether (150 ml) over a thirty minute period. An additional 75 ml of ethyl ether was added and the reaction stirred for 72 hours. The resulting white solid was filtered and washed well with ethyl ether. The ethyl ether was collected, combined with the filtrate and the solvent evaporated on a rotary evaporator to yield 9.5 g of product as an orange oil. NMR confirmed the structure of the product.

reactant | acryloyl chloride | 0.10 mole, 9 g | C(C=C)(=O)Cl | C3H3ClO
reactant | N-methylpiperazine | 0.10 mole, 10 g | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.22 mole, 30.6 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 75 ml | C(C)OCC | C4H10O
product | 1-methyl-4-(1-oxo-2-propenyl)piperazine | 9.5 g | CN1CCN(CC1)C(C=C)=O | C8H14N2O
